US07615651B2
Preparation of Intermediate (4′-Methanesulfonylamino-2-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-8c)
(4′-Amino-2-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester, (I-9b: 128 mg, 0.335 mmol) was dissolved in 7 ml of dichloromethane and treated with triethylamine (0.188 mL, 1.34 mmol) and methylsulfonyl chloride (0.077 mL, 1.0 mmol). After 12 hours, the volatiles were removed under reduced pressure and the residue was then dissolved in methanol (15 mL) and treated with a 2N sodium hydroxide solution (15 mL). After stirring at 50° C. for 1 hour, the reaction mixture was then concentrated under reduced pressure and residue dissolved in ethyl acetate and extracted with water. The organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified using preparative thin layer chromatography eluting with 65% ethyl acetate in heptane to afford the title compound (I-8c).

reactant | (4′-Amino-2-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCC(C)C)CC1=CC(=C(C=C1)C1=CC=C(C=C1)N)C)=O | C24H34N2O2
reactant | triethylamine | 1.34 mmol, 0.188 mL | C(C)N(CC)CC | C6H15N
reactant | methylsulfonyl chloride | 1.0 mmol, 0.077 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | (4′-Methanesulfonylamino-2-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCC(C)C)CC1=CC(=C(C=C1)C1=CC=C(C=C1)NS(=O)(=O)C)C)=O | C25H36N2O4S
